US07776864B2
Step 3: 4-[6-(3-Thienyl)pyrazolo[1,5-a]pyrimidin-5-yl]benzaldehyde
To a mixture of 276 mg 5-chloro-6-thiophen-3-yl-pyrazolo[1,5-a]pyrimidine and 228 mg 4-formylphenylboronic acid in 13 ml 1,2-dimethoxyethane are added 1.8 ml of a 10% w/w sodium carbonate solution and 48 mg dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II). The resulting mixture is heated to 80° C. under an inert gas atmosphere for 7 h. An additional portion of 228 mg 4-formylphenylboronic acid and 48 mg dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) is added and the mixture is heated to 80° C. for 2 h. The work up is performed by diluting the reaction mixture with water and dichloromethane, separating the phases and extraction of the aqueous phase with dichloromethane. The combined organic layers are dried over sodium sulphate and the solvent is evaporated. The solid residue is stirred in diethylether, filtered and dried to yield the desired product.

reactant | 5-chloro-6-thiophen-3-yl-pyrazolo[1,5-a]pyrimidine | 276 mg | ClC1=NC=2N(C=C1C1=CSC=C1)N=CC2 | C10H6ClN3S
reactant | 4-formylphenylboronic acid | 228 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-formylphenylboronic acid | 228 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
solvent | 1,2-dimethoxyethane | 13 ml | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 48 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 48 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[6-(3-Thienyl)pyrazolo[1,5-a]pyrimidin-5-yl]benzaldehyde | S1C=C(C=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C17H11N3OS
